Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea and need for uninterrupted anticoagulation prior to a 
planned invasive procedure
 
Major Surgical or Invasive Procedure:
Right heart catheterization
Trans-esophageal echocardiogram
 
History of Present Illness:
___ woman with H/O Hodgkin's lymphoma ___ years ago, S/P 
radiation treatment and chemotherapy, now with tetra-valvular 
disease and known coronary artery disease S/P PCI and single 
vessel CABG plus mechanical aortic valve replacement and mitral 
and tricuspid valve repair on warfarin admitted for evaluation 
of worsening right sided heart failure with planned right heart 
catheterization and need for heparin bridging while holding 
warfarin.

Patient is seen regularly by Dr. ___ NP ___. 
She was seen on ___, complaining of a five-pound 
weight gain with markedly progressive abdominal bloating and 
shortness of breath with minimal physical exertion. Her weight 
was up to 167 pounds. ___ had her increased torsemide from 
20 mg daily to 40 mg daily, which resulted in an improvement of 
her symptoms. 10 days ago patient had her torsemide again 
increased to 50 mg daily, and is now at baseline 
symptomatically.

On arrival to the floor, patient was breathing comfortably room 
air and without acute complaint. She was accompanied by her 
husband and her sister in law.

On review of systems, she denied any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, cough, hemoptysis, black stools or 
red stools. She denied recent fevers, chills or rigors. She 
denied exertional buttock or calf pain. All of the other review 
of systems were negative.

Cardiac review of systems was notable for positive dyspnea on 
exertion but an absence of chest pain, paroxysmal nocturnal 
dyspnea, orthopnea, ankle edema, palpitations, syncope or 
presyncope.
 
Past Medical History:
1. CAD RISK FACTORS: No Diabetes mellitus; Dyslipidemia and 
Hypertension present
2. CARDIAC HISTORY:
___: Aortic valve replacement with a 19 mm On-X valve; mitral 
valve repair with a 26 mm annuloplasty band; tricuspid valve 
repair with an MC3 annuloplasty ring; coronary artery bypass 
graft x 1 (saphenous vein graft to right coronary artery).

CAD 2-vessel, S/P myocardial infarction and stent to ostial RCA 
(2.5x13mm Bx hepacoat) from ___

valvular heart disease including regurgitation of mitral, 
tricuspid and pulmonic valves

___ s/p treatment of Hodgkin's at age ___, s/p chemotherapy and 
mantle radiation with cardiomyopathy

3. OTHER PAST MEDICAL HISTORY:
Arthritis 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission:
GENERAL: Ill appearing Caucasian woman in NAD, ___. Oriented 
x3. Mood, affect appropriate.
VS: T=97.6 BP=114/52 HR=86 O2 sat=98%
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple with JVP of 10 cm.
CARDIAC: RR, normal S1, mechanical S2. Systolic and diastolic 
mumrmus are present, systolic ___ radiating to the carotids. No 
rubs or gallops. I did not appreciate splitting of the S2. No 
thrills, lifts.
LUNGS: CTAB, no crackles, wheezes or rhonchi. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use.
ABDOMEN: Soft, NTND, no fluid wave. No HSM or tenderness. Abd 
aorta not enlarged by palpation. No abdominal bruits.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left:  Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 

Discharge:
VS: T=97.2-99.5 BP=81-106/42-53 HR=81-101 O2 sat=96-100% on RA
I/O: 88/250 this morning, yesterday ___
75.7 -> 74.5 -> 77.0 -> 76.7 today
GENERAL: ___ female in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with JVP going up with her pulse to 15cm.
CARDIAC: RR, normal S1, mechanical S2. Systolic and diastolic 
mumrmus are present, systolic ___ radiating to the carotids. No 
rubs or gallops. Today I heard fixed splitting of the S2. No 
thrills, lifts.
LUNGS: CTAB, no crackles, wheezes or rhonchi. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use.
ABDOMEN: Soft, NTND, no fluid wave. No HSM or tenderness. Abd 
aorta not enlarged by palpation. No abdominal bruits.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
___ 08:10PM BLOOD WBC-7.0 RBC-3.87* Hgb-12.3 Hct-36.9 
MCV-95# MCH-31.7# MCHC-33.2 RDW-12.7 Plt ___
___ 05:30AM BLOOD WBC-7.2 RBC-3.59* Hgb-11.4* Hct-34.5* 
MCV-96 MCH-31.7 MCHC-33.0 RDW-13.0 Plt ___

___ 08:10PM BLOOD ___ PTT-28.1 ___
___ 10:12AM BLOOD ___ PTT-87.0* ___
___ 06:45AM BLOOD ___
___ 06:46AM BLOOD ___ PTT-96.8* ___

___ 08:10PM BLOOD Glucose-122* UreaN-53* Creat-1.5* Na-138 
K-4.3 Cl-98 HCO3-26 AnGap-18
___ 05:30AM BLOOD Glucose-112* UreaN-40* Creat-1.4* Na-139 
K-4.1 Cl-100 HCO3-27 AnGap-16

___ 08:10PM BLOOD Calcium-9.5 Phos-5.0*# Mg-2.5
___ 05:30AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.4

___ EKG:
Sinus rhythm. Left bundle-branch block. Since the previous 
tracing of ___ the rate is slower. The QRS width is wider. 
Otherwise, unchanged.

___ Right-sided cardiac catheterization:
Blood Oximetry Information
Baseline
TimeSiteHgb (gm/dL)Sat (%)
 2:02PMSVC     11.60          67
 2:02PMPCW     11.60          82
 2:03PMPA      11.60          67
 2:07PMAO      11.60          97

Cardiac Output Results
Phase
          Fick C.O. (l/min)Fick C.I.(l/min/m2)
Baseline4.82          2.64

Hemodynamic Measurements (mmHg)
Baseline
SiteSysDiasEndMeanA WaveV WaveHR
RV      ___
PCW     ___
___      ___

Radiology Summary
Total Cine Runs
Fluoro Time (minutes)3.80
Total IRP Dosage (mGy) 28.536

Findings
ESTIMATED blood loss: <100 cc
Hemodynamics (see above): 

Assessment & Recommendations
1.Consider Mitral regurgitation as etiology of dyspnea
2.No significant elevation in PVR.

___ TEE:
Subotimal image quality due to respiratory variation, which 
limited visualization of the RV and tricuspid valve. No 
spontaneous echo contrast or thrombus is seen in the body of the 
left atrium or left atrial appendage. No atrial septal defect is 
seen by 2D or color Doppler. Overall left ventricular systolic 
function is depressed. The right ventricular cavity is dilated 
with global free wall hypokinesis. There is abnormal diastolic 
septal motion/position consistent with right ventricular volume 
overload. There are simple atheroma in the ascending aorta, 
aortic arch, and descending thoracic aorta. A mechanical aortic 
valve prosthesis is present. The aortic valve prosthesis 
leaflets appear to move normally. Trace aortic regurgitation is 
seen. No masses or vegetations are seen on the aortic valve. 
There is posterior mitral valve leaflet restriction with 
moderate (2+) mitral regurgitation. No mass or vegetation is 
seen on the mitral valve. There is no pericardial effusion.
IMPRESSION: Posterior mitral leaflet restriction with moderate 
MR. ___ and hypokinetic RV with evidence of RV volume 
overload. Depressed LF systolic function. Well-seated mechanical 
aortic valve. Poor RV and tricuspid valve visualization.
  Compared with the prior study (images reviewed) of ___, 
the findings are similar. RV and tricuspid valve are better seen 
on the previous transthoracic echocardiogram. 
 
Brief Hospital Course:
___ woman with a past medical history of Hodgkin's 
Lymphoma ___ years ago, S/P radiation treatment and chemotherapy, 
now with tetra-valvular disease and known CAD S/P CABG + 
mechanical aortic valve replacement and mitral and tricuspid 
valve repair on warfarin admitted for evaluation of worsening 
right sided heart failure with right heart catheterization and 
for heparin drip bridging while holding Coumadin.

# CAD: Known 2 vessel disease from ___ angiography, S/P CABG x 
1 (saphenous vein graft to right coronary artery) in ___. We 
decreased patient's dose of Metoprolol tartrate 100mg BID 
(discharged on 100 mg metoprolol succinate) to allow for more 
blood pressure room for diuresis. We also continued simvastatin 
40 mg Tablet daily and aspirin 81 mg Tablet daily.

# Pump: Severe biventricular systolic heart failure with LVEF = 
35-40%, evidence of elevated right heart pressures from 
outpatient transthroacic echocardiogram. Right heart 
catheterization demonstrated large PCW V waves consistent with 
significan mitral regurgitation, along with mean PCW 25 mm Hg, 
consistent with acute on chronic left ventricular diastolic 
heart failure. Follow up TEE showed only 2+ moderate mitral 
regurgitation. Medical management for now as benefit of mitral 
valve surgery uncertain. We changed her enalapril 10 mg daily to 
lisinopril 5 mg daily to achieve more blood pressure room to 
allow for torsemide 50 mg daily (patient was on 40 mg tablet 
daily initially but a week prior to coming into the hospital she 
was on 50 mg). While in house, patient regularly had blood 
pressures in the 80-90s systolic range, which was asymptomatic, 
however, in an effort to diurese the patient and reduce her 
PCWP, we made the blood pressure medication changes as above.

# Rhythm: LBBB on EKG. Disynchronous beating by echo, but likely 
to right sided increased pressures and failure. Otherwise not 
active issue.

# Valvular heart disease, S/P mechanical AVR: On warfarin at 
home. We restarted warfarin ___, 5 mg daily, with INR 2.5 at 
discharge. Goal INR of 2.5-3.5, when patient was subtherapeutic, 
she was on a heparin drip.

# Cough: upper respiratory tract infection versus dry room. Less 
likely is strep throat as patient is afebrile. Patient with some 
coughing and pink tinged sputum which is likely exacerbated by 
warfarin and heparin. She is not having pain with swallowing and 
had a runny nose while in house. No chest pain or cough from 
lungs. Afebrile. Patient was given Cepacol, Tylenol and Tessalon 
Perles PRN.

# Lymphoma from age ___. s/p radiation. Otherwise not active.

# History of depression: Controlled with citalopram 20 mg daily.

# Iron deficinecy: patient not anemic now, MCV 95, we continued 
her outpatient iron preparation.

# Transitional
-We decreased patient's blood pressure medications to allow more 
room for diuresis.  As mentioned, patient was asymptomatic, but 
will continue to benefit from diuresis in light of her PCWP of 
approximately 28. As an outpatient, these changes can certainly 
be reversed.
 
Medications on Admission:
AMOXICILLIN - 500 mg Capsule - 4 Capsule(s) by mouth 1 hour 
prior to dental work
CITALOPRAM - 20 mg Tablet - 1 Tablet(s) by mouth daily
ENALAPRIL MALEATE - 10 mg Tablet - one Tablet(s) by mouth daily
IRON POLYSACCH COMPLEX-B12-FA [FERREX ___ FORTE] - 150 mg-25 
mcg-1 mg Capsule - 1 Capsule(s) by mouth twice a day with meals
LORAZEPAM - 0.5 mg Tablet - 1 (One) Tablet(s) by mouth only as 
needed as needed for as needed for anxiety or wheezing
METOPROLOL SUCCINATE - 200 mg Tablet Extended Release 24 hr - 1 
Tablet(s) by mouth once a day
NITROGLYCERIN - 0.4 mg Tablet, Sublingual - 1 Tablet 
sublingually every 5 minutes for chest pain only up to 3 tablets
SIMVASTATIN - 40 mg Tablet - 1 Tablet(s) by mouth daily
TORSEMIDE - 20 mg Tablet - TWO Tablet(s) by mouth once a day
WARFARIN - 5 mg Tablet - one Tablet(s) by mouth daily on 
___ 4 mg the rest of week
WARFARIN - 1 mg Tablet - one-half Tablet by mouth once per week 
with 4 mg tab; 5mg on ___ & 4mg rest of week (has 4mg & 5mg 
tabs)
WARFARIN - 2 mg Tablet - two Tablet(s) by mouth five days a 
week; 5mg tablet on ___ 4.5mg on ___
ASPIRIN [ENTERIC COATED ASPIRIN] - (Prescribed by Other 
Provider) - 81 mg Tablet, Delayed Release (E.C.) - 1 Tablet(s) 
by mouth Daily 
 
Discharge Medications:
1. amoxicillin 500 mg Capsule Sig: Four (4) Capsule PO Once: 
Please take 1 hour prior to dental work.
2. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
3. iron polysacch complex-B12-FA 150-25-1 mg-mcg-mg Capsule Sig: 
One (1) Capsule PO twice a day: with meals.
4. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed: for anxiety.
5. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual three times a day: Can take up to 3 for chest pain, 5 
minutes apart. If chest pain does not go away, call ___.
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
7. torsemide 20 mg Tablet Sig: 2.5 Tablets PO DAILY (Daily).
8. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a week: Take 
on ___.
9. warfarin 4 mg Tablet Sig: One (1) Tablet PO once a day: Take 
___, Thru___, ___, and ___ with 
.5mg.  Do not take on ___.
10. warfarin 1 mg Tablet Sig: ___ Tablet PO once a week: On 
___, with 4mg for a total of 4.5mg.
11. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
12. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Disp:*60 Tablet(s)* Refills:*0*
13. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day. 
Disp:*60 Tablet Extended Release 24 hr(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic biventricular systolic and diastolic heart 
failure
Coronary artery disease with prior bypass graft surgery
Mitral regurgitation with prior mitral valve repair
Prior mechanical aortic valve replacement with long term 
anticoagulation
Dyslipidemia
Hypertension
Hypotension
Cough
Depression
Left bundle branch block
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

It was our pleasure to care for you at ___.

You were admitted for a right heart catheterization and to 
anticoagulate you on a heparin drip while your INR was less than 
2.5.  

We found on right heart catheterization that the difficulty 
breathing is likely due your mitral valve leaking a little bit 
of from your left ventricle and into your lungs.  We confirmed 
on transesophageal echo that you had 2+ mitral regurgitation 
(leaking), which is consistent with what we had seen earlier on 
previous echos.  We will manage this medically, with a higher 
dose of torsemide (50mg daily, which you were taking) and with 
lower doses of your other blood pressure medications to allow 
you a chance to diurese without your blood pressure decreasing 
too much.

We made the following changes to your medications.
Please DECREASE metoprolol XL to 100mg daily
Please STOP taking Enalapril
Please START Lisinopril 5mg
Please CONTINUE torsemide 50mg daily, like you were taking.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___